*Title: T3 Circuit

*Netlist

.options savecurrents
 
*The circuit components are defined below

*This is the model used in the envelope circuit
.MODEL mydiode D 



*The following line is only for testing purposes, upon the delivery of the lab it shall BE DELETED
*Vin n3 n4  0.0 ac 1.0 sin(0 13 50 0.005 )

*In these following two lines, we have the first circuit where the AC source is located

Vin n1 0  0.0 ac 1.0 sin(0 230 50)

F1 n1 0 Vaux 0.058828

*In these following lines, we have the second circuit where the voltage amplitude is lowered and it is converted to DC

E1 n3 naux2 n1 0 0.058828

Vaux n4 naux2 0

*Envelope Circuit diodes
D1 n3 n6  mydiode

D2 n4 n6  mydiode

D3 0 n3  mydiode

D4 0 n4  mydiode

*Regulator diodes
D5 n7 n8  mydiode

D6 n8 n9  mydiode

D7 n9 n10  mydiode

D8 n10 n11  mydiode

D9 n11 n12  mydiode

D10 n12 n13  mydiode

D11 n13 n14  mydiode

D12 n14 n15  mydiode

D13 n15 n16  mydiode

D14 n16 n17  mydiode

D15 n17 n18  mydiode

D16 n18 n19  mydiode

D17 n19 n20  mydiode

D18 n20 n21  mydiode

D19 n21 n22  mydiode

D20 n22 n23  mydiode

D21 n23 n24  mydiode

D22 n24 n25 mydiode

D23 n25 n26 mydiode

D24 n26 n27 mydiode

D25 n27 n28 mydiode

D26 n28 n29 mydiode

D27 n29 0 mydiode


*Envelope Circuit Resistance and Capacitor
R1 n6 0  50k

C1 n6 0  150u

*Regulator Circuit Resistance
R2 n6 n7  10




.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0



tran 2e-5 0.1965 0.1853


*Prints the following graphics
hardcopy trans1aux.ps v(n6)
echo trans1aux_FIG

hardcopy trans2aux.ps v(n7)
echo trans2aux_FIG

hardcopy trans3aux.ps v(n7)-12
echo trans3aux_FIG


quit
.endc
.end

